US08106208B2
To a mixture of 4-(azetidin-1-ylcarbonyl)piperidine (0.34 g, 2.0 mmol) and 1-(diphenylmethyl)azetidin-3-one (see Bioorg. Med. Chem. Lett.; 13; 2003; 2191-2194, 0.37 g, 1.6 mmol), methanol (5 mL) and acetic acid (0.1 mL) was added (polystyrylmethyl)trimethylammonium cyanoborohydride (4.1 mmol/g, 0.61 g). The reaction mixture was heated for 10 min at 120° C. using microwave single node heating and then filtered through a phase separator. The solvent was removed by evaporation and the product was purified by chromatography on silica gel (methanol-methylene chloride, 5:95). There was obtained 0.42 g (70%) of 4-(azetidin-1-ylcarbonyl)-1-[1-(diphenylmethyl)azetidin-3-yl]piperidine as a colorless foam. 1H NMR (500 MHz, CDCl3): 1.6-1.7 (m, 2H), 1.7-1.8 (m, 4H), 2.0-2.1 (m, 1H), 2.2 (qn, 2H), 2.7-2.8 (m, 2H), 2.8-3.0 (m, 3H), 3.4 (t, 2H), 4.0 (t, 2H), 4.1 (t, 2H), 4.4 (s, 1H), 7.1-7.2 (t, 2H), 7.2-7.3 (t, 4H), 7.4 (d, 4H); LCMS: m/z 390 (M+1)+.

reactant | 4-(azetidin-1-ylcarbonyl)piperidine | 2.0 mmol, 0.34 g | N1(CCC1)C(=O)C1CCNCC1 | C9H16N2O
reactant | 1-(diphenylmethyl)azetidin-3-one | 1.6 mmol, 0.37 g | C1(=CC=CC=C1)C(N1CC(C1)=O)C1=CC=CC=C1 | C16H15NO
reactant | methanol | 5 mL | CO | CH4O
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | 4-(azetidin-1-ylcarbonyl)-1-[1-(diphenylmethyl)azetidin-3-yl]piperidine | 0.42 g, 70% | N1(CCC1)C(=O)C1CCN(CC1)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31N3O
